US05001137
2-Chloro-3-cyanopyridine is reacted with 4-methoxyphenol in the presence of sodium hydride in dimethylformamide to give 2-(4-methoxyphenoxy)-3-cyanopyridine, which is subjected to Grignard reaction with 2-bromothiophene in a mixed solvent of ether and benzene, followed by treatment with hydrochloric acid to give 2-(4-methoxyphenoxy)-3-(2-thenoyl)pyridine. The thus obtained compound is subjected to demethylation reaction with the use of aluminium chloride and 1-butanethiol in dichloromethane to give 2-(4-hydroxyphenoxy)-3-(2-thenoyl)pyridine.

reactant | 2-Chloro-3-cyanopyridine | ClC1=NC=CC=C1C#N | C6H3ClN2
reactant | 4-methoxyphenol | COC1=CC=C(C=C1)O | C7H8O2
reactant | sodium hydride | [H-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-(4-methoxyphenoxy)-3-cyanopyridine | COC1=CC=C(OC2=NC=CC=C2C#N)C=C1 | C13H10N2O2
